US04460603
3-(2,6-dimethylanilino)-gamma-butyrolactone was acylated with methoxyacetyl chloride according to the procedure described in Example 2C above to yield N-methoxyacetyl-3-(2,6-dimethylanilino)-gamma-butyrolactone.

reactant | 3-(2,6-dimethylanilino)-gamma-butyrolactone | CC1=C(NC2CC(=O)OC2)C(=CC=C1)C | C12H15NO2
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | N-methoxyacetyl-3-(2,6-dimethylanilino)-gamma-butyrolactone | COCC(=O)N(C1=C(C=CC=C1C)C)C1CC(=O)OC1 | C15H19NO4
